US07585885B2
2-Acetyl-6-chloro-isonicotinic acid methyl ester
Add methyl 2,6-dichloroisonicotinate (3.0 g, 15.0 mmol), trans-dichlorobis(triphenylphosphine)palladium (II) (105 mg, 0.15 mmol) and toluene (10 mL) in a previously nitrogen filled sealed vessel. Flush the reactants with nitrogen again. Add tributyl(1-ethoxyvinyl)tin (5.57 mL, 16.5 mmol) under nitrogen and heat the sealed mixture at 100° C. overnight with vigorous stirring. Cool the reaction to room temperature, dilute with diethyl ether and filter through a filtering agent. Concentrate to near dryness and dilute the residue with THF (10 mL). Add dropwise 5 N HCl (5 mL) and stir the mixture overnight. Concentrate to near dryness and extract the organic material by diethyl ether, partitioning with water. Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 ethyl acetate:hexanes) to give the title compound as a solid over two steps (47%).

reactant | methyl 2,6-dichloroisonicotinate | 15.0 mmol, 3.0 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | tributyl(1-ethoxyvinyl)tin | 16.5 mmol, 5.57 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.15 mmol, 105 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Acetyl-6-chloro-isonicotinic acid methyl ester | COC(C1=CC(=NC(=C1)Cl)C(C)=O)=O | C9H8ClNO3
